US04215044
A solution of 16.8 g (0.05 mol) of the aforesaid 4-(2-methylpropyl)-β,β-bis(trimethylsiloxy)-styrene in 250 ml of CFCl3 was cooled to -70° C. and 5.2 g (0.05 mol) of trifluoromethyl hypofluorite were passed into the solution over a period of 1 hour. The reaction mixture was warmed to room temperature (25° C.) and then evaporated under reduced pressure to give 14.1 g (100% yield) of crude trifluoromethylsilyl α-fluoro-4-(2-methylpropyl)benzeneacetate as a colorless oil: 19F NMR (CFCl3) δ-176.8 ppm (d, J=49 Hz); 1H NMR (CFCl3, ext. TMS) δ 0.01 ppm (s, 9H), 0.66 ppm (d, J=6 Hz, 6H), 1.55 ppm (m, 1H), 2.22 ppm (d, J=6 Hz, 2H), 5.30 ppm (d, J=49 Hz, 1H) and 6.7-7.2 ppm (A 2 B2).

reactant | 4-(2-methylpropyl)-β,β-bis(trimethylsiloxy)-styrene | 0.05 mol, 16.8 g | CC(CC1=CC=C(C=C(O[Si](C)(C)C)O[Si](C)(C)C)C=C1)C | C18H32O2Si2
reactant | trifluoromethyl hypofluorite | 0.05 mol, 5.2 g | FOC(F)(F)F | CF4O
reactant | CFCl3 | 250 ml | C(F)(Cl)(Cl)Cl | CCl3F
product | trifluoromethylsilyl α-fluoro-4-(2-methylpropyl)benzeneacetate | 14.1 g, 100% yield | FC(C(=O)O[SiH2]C(F)(F)F)C1=CC=C(C=C1)CC(C)C | C13H16F4O2Si
